US06159975
Step CC: (R)-3-(3,5-dimethylbenzoyl)-4-methyldihydrofuran-2-one
To a solution of (R)-4-methyldihydrofuran-2-one (1.68 g in 40 mL dioxane) were added 5.51 g 3,5-dimethylbenzoic acid methyl ester followed by 1.82 g sodium hydroxide and the mixture heated to reflux on an oil bath. After 3 hours, the mixture was cooled to room temperature and the pH neutralized by the addition of 0.5N hydrochloric acid. The mixture was then extracted with ethyl acetate and the organic portion washed with brine and dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (hexane:ethyl acetate, 9:1) gave the title compound (2.42 g).

reactant | 3,5-dimethylbenzoic acid methyl ester | 5.51 g | COC(C1=CC(=CC(=C1)C)C)=O | C10H12O2
reactant | sodium hydroxide | 1.82 g | [OH-].[Na+]
reactant | hydrochloric acid | 0.5N | Cl | ClH
reactant | (R)-4-methyldihydrofuran-2-one | 40 mL, 1.68 g | C[C@@H]1CC(OC1)=O | C5H8O2
product | (R)-3-(3,5-dimethylbenzoyl)-4-methyldihydrofuran-2-one | 2.42 g | CC=1C=C(C(=O)[C@@H]2C(OCC2C)=O)C=C(C1)C | C14H16O3
